US06468995B1
A solution of 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(3-pyridyl)methylthio]-3-cephem-4-carboxylic acid bis(trifluoroacetic acid) salt (3.85 g, 5.05 m mol) and ammonium chloride (810 mg, 15.2 m mol) in a mixture of water (116 ml) and methanol (11.6 ml) was stirred at room temperature for 2.5 hours with keeping pH 8. The reaction mixture was adjusted to pH 6 by addition of 1N HCl. Methanol in the mixture was removed by evaporation in vacuo. The aqueous solution was adjusted to pH 5 and chromatographed on HP-20 (100 ml) and eluted with 5-10% aqueous isopropanol. The eluent was lyophilized. To the crude product was added water and acetonitrile. The precipitates were collected by filtration, washed with water and dried in vacuo to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(3-pyridyl)methyl-thio]-3-cephem-4-carboxylic acid (445 mg, 0.903 m mol).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(3-pyridyl)methylthio]-3-cephem-4-carboxylic acid bis(trifluoroacetic acid) salt | 3.85 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NC=CC2)C(=O)O)C1=O)=N/OC(C)=O
reactant | ammonium chloride | 810 mg | [Cl-].[NH4+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 116 ml | O | H2O
solvent | methanol | 11.6 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(3-pyridyl)methyl-thio]-3-cephem-4-carboxylic acid | 445 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NC=CC2)C(=O)O)C1=O)=N/O | C18H16N6O5S3
